US03932390
A solution of ammonia may be used in place of hexamethylenetetramine to prepare 2-thia-1,3,5-triaza-7-phosphaadamantane 2,2-dioxide. Tris(hydroxymethyl)phosphine (3.9 g, 80%, 0.025 moles) was dissolved in formalin (20 ml, 40%, 0.267 moles) and water (20 ml). Ammonium hydroxide (29% NH3, 1.7 ml, 0.025 moles) was added to the solution at room temperature. Sulfamide (2.4 g, 0.025 mole) was then added and dissolved in the solution at room temperature. The solution heated up slightly and over the next twenty-four hours a precipitate formed. Filtration, dissolution of the solid in 4 successive 30 ml acetone washes and evaporation of the acetone yielded 1.0 g of crude 2-thia-1,3,5-triaza-7-phosphaadamantane (19.3% yield).

reactant | ammonia | N | H3N
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2-thia-1,3,5-triaza-7-phosphaadamantane 2,2-dioxide | N12S(N3CN(CP(C1)C3)C2)(=O)=O | C5H10N3O2PS
reactant | Tris(hydroxymethyl)phosphine | 0.025 moles, 3.9 g | OCP(CO)CO | C3H9O3P
reactant | formalin | 0.267 moles, 20 ml | C=O | CH2O
reactant | Ammonium hydroxide | 0.025 moles, 1.7 ml | [OH-].[NH4+]
reactant | Sulfamide | 0.025 mole, 2.4 g | S(=O)(=O)(N)N | H4N2O2S
solvent | water | 20 ml | O | H2O
product | 2-thia-1,3,5-triaza-7-phosphaadamantane | 1.0 g, 19.3% yield | N12SN3CN(CP(C1)C3)C2 | C5H10N3PS
